US04267326
Using a reactor similar to that used in Example 1, 3.90 g (0.03 mol) of 5-fluorouracil was dissolved in 50 ml of dimethylformamide. Then, 3.0 g of triethylamine was added to this solution. To the mixture was added dropwise 4.73 g (0.0287 mol) of caproyloxymethyl chloride. The mixture was reacted for 3 hours at 50° C. After completion of the reaction, the reaction liquid was filtered to remove the precipitated triethylamine hydrochloride and then the dimethylformamide was removed by distillation from the filtrate. Next, 50 ml of chloroform was added to the residue and the mixture was stirred and filtered to remove insoluble unreacted 5-fluorouracil. The chloroform phase was washed with water and then dried. By removing the chloroform by distillation, 3.0 g of 1-caproyloxymethyl-5-fluorouracil was obtained as white crystals having a melting point of 95°~96° C. in a yield of 38.7%.

reactant | 5-fluorouracil | 0.03 mol, 3.90 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | triethylamine | 3.0 g | C(C)N(CC)CC | C6H15N
reactant | caproyloxymethyl chloride | 0.0287 mol, 4.73 g | C(CCCCC)(=O)OCCl | C7H13ClO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-caproyloxymethyl-5-fluorouracil | 3.0 g, yield of 38.7% | C(CCCCC)(=O)OCN1C(=O)NC(=O)C(=C1)F | C11H15FN2O4
